US05863947
To a stirred solution of 4-cyano-2-fluorobenzaldehyde (0.5 g, 3.4 mmol) in dry dimethylformamide (3 ml) cooled to 5° C. under a nitrogen atmosphere, a solution of freshly prepared sodium methoxide in methanol (1.41M, 2.62 ml) was added slowly, dropwise. After addition, the reaction mixture was stirred at room temperature for 22 hours. A few drops of water were then added and the turbid solution filtered through celite. The filtrate was further diluted with water until crystallisation commenced to give 2-cyano-4-methoxybenzaldeyde as a pale yellow solid. A second crop was recovered from the filtrate.

reactant | 4-cyano-2-fluorobenzaldehyde | 3.4 mmol, 0.5 g | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1.41M, 2.62 ml | CO | CH4O
catalyst | water | A few drops | O | H2O
product | 2-cyano-4-methoxybenzaldeyde | C(#N)C1=C(C=O)C=CC(=C1)OC | C9H7NO2
